US04410679
B. Preparation of Diblocked Diisocyanate Diurethane Oligomer
The half-blocked diisocyanate product of Part A is reacted with 2-ethyl-1,3-hexanediol, 18.2 g, in 22.8 g methyl amyl ketone at 60°-80° C. until no infrared absorption for isocyanate is observed.

reactant | 2-ethyl-1,3-hexanediol | C(C)C(CO)C(CCC)O | C8H18O2
reactant | isocyanate | [N-]=C=O
solvent | methyl amyl ketone | 22.8 g | C(CCCC)C(=O)C | C7H14O
product | Diisocyanate Diurethane | NC(=O)OCC.NC(=O)OCC.[N-]=C=O.[N-]=C=O | InChI=1S/2C3H7NO2.2CNO/c2*1-2-6-3(4)5;2*2-1-3/h2*2H2,1H3,(H2,4,5);;/q;;2*-1
